US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol), methyl-4H-1,2,4 triazole-3-yl-methylamine hydrogen chloride (7.80 mg, 0.070 mmol), 4-methylmorpholine (18.76 mg, 0.185 mmol), and HATU (22.92 mg, 0.060 mmol) were dissolved in DMF (1 mL). This was stirred for 1 h before it was purified via preparative LC/MS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 35-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-N-((5-methyl-4H-1,2,4-triazol-3-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (12.6 mg, 0.024 mmol, 51.2% yield): LCMS=526.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.15 (2 H, d, J=8.28 Hz), 7.49-7.76 (8 H, m), 5.18 (1 H, s), 4.35-4.61 (2 H, m), 4.26 (1 H, s), 2.41 (3 H, br. s.); HPLC peak RT=2.3 min (Method E).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | methyl-4H-1,2,4 triazole-3-yl-methylamine hydrogen chloride | 0.070 mmol, 7.80 mg | Cl.CN(C)C1=NN=CN1
reactant | 4-methylmorpholine | 0.185 mmol, 18.76 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.060 mmol, 22.92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-((5-methyl-4H-1,2,4-triazol-3-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.024 mmol, 12.6 mg, 51.2% yield | OC(C(=O)NCC1=NN=C(N1)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C24H18F3N7O4
